US04904671
(a) 2-(4-Hydroxybutylamino)nitrobenzene
2-Fluoronitrobenzene (28 g), 4-aminobutanol (18 g) and triethylamine (29 ml) were dissolved in toluene (100 ml) and heated at 100° for 6 hours. The organic phase was washed with water (50 ml) and then extracted with concentrated hydrochloric acid (2×50 ml). The combined acid extracts were diluted with water (100 ml), neutralised with concentrated aqueous ammonia and extracted with methylene chloride (3×50 ml). The organic extracts were combined, dried over Na2SO4, filtered and evaporated to leave the title compound as a dark red oil (41 g) which was used directly in the next step.

reactant | 2-Fluoronitrobenzene | 28 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-aminobutanol | 18 g | NCCCCO | C4H11NO
reactant | triethylamine | 29 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Hydroxybutylamino)nitrobenzene | 41 g | OCCCCNC1=C(C=CC=C1)[N+](=O)[O-] | C10H14N2O3
